US04298739
To a solution of 1.7 g of 6-[3-(N-cyclohexyl-N-methylaminocarbonyl)propoxy]-3,4-dihydrocarbostyril in 50 ml of DMF is added 0.3 g of sodium hydroxide at room temperature under agitation. After the end of hydrogen generation, 1 ml of methyl iodide is added dropwise to the solution and the mixture is agitated at room temperature for 3 hours. After the reaction, the solvent is distilled off under reduced pressure and the residue is dissolved in 200 ml of chloroform. The chloroform layer is washed with an aqueous K2CO3 solution and water and then dried with anhydrous Na2SO4. After filtering out the inorganic matter, the mother liquor is concentrated and the residue is recrystallized from ligroin to obtain 0.9 g of 1-methyl-6-[3-(N-cyclohexyl-N-methylaminocarbonyl)propoxy]-3,4-dihydrocarbostyril in the form of colorless needle-like crystals with melting point of 104.5°-106.5° C.

reactant | 6-[3-(N-cyclohexyl-N-methylaminocarbonyl)propoxy]-3,4-dihydrocarbostyril | 1.7 g | C1(CCCCC1)N(C(=O)CCCOC=1C=C2CCC(NC2=CC1)=O)C | C20H28N2O3
reactant | sodium hydroxide | 0.3 g | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 1 ml | CI | CH3I
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-methyl-6-[3-(N-cyclohexyl-N-methylaminocarbonyl)propoxy]-3,4-dihydrocarbostyril | 0.9 g | CN1C(=O)CCC2=CC(=CC=C12)OCCCC(=O)N(C)C1CCCCC1 | C21H30N2O3
